US06723720B2
3-(4-Bromophenyl)-5-(2,6-difluorophenyl)-[1,2,4]triazine
A mixture of 1.85 g of 4-bromobenzoic acid [2-(2,6-difluorophenyl)-2-oxoethylidene] hydrazide and 0.77 g of ammonium acetate is heated in 15 ml of glacial acetic acid at 10° C. for 14 h. After cooling to room temperature, the reaction mixture is poured into ice-water and extracted with ethyl acetate, and the organic phase is washed with saturated sodium hydrogen carbonate and saturated sodium chloride solution. After the organic phase has been dried over sodium sulfate, filtering and concentration in a rotary evaporator are carried out. The residue is purified by means of flash chromatography (5% ethyl acetate in toluene). In this way the title compound is obtained in the form of yellow crystals.

reactant | 4-bromobenzoic acid [2-(2,6-difluorophenyl)-2-oxoethylidene] hydrazide | 1.85 g | FC1=C(C(=CC=C1)F)C(C=NNC(C1=CC=C(C=C1)Br)=O)=O | C15H9BrF2N2O2
reactant | ammonium acetate | 0.77 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
product | 3-(4-Bromophenyl)-5-(2,6-difluorophenyl)-[1,2,4]triazine | BrC1=CC=C(C=C1)C=1N=NC=C(N1)C1=C(C=CC=C1F)F | C15H8BrF2N3
